US06657089B1
Synthesis of 2-(1-Methylheptyloxy)ethanol
2-Hexyl-2-methyl-1,3-dioxolane (30 g, 0.17 mol), the palladium catalyst (2) (2.2 g) and phosphoric acid (110 mg) were charged in a 70-mL autoclave, followed by a reaction under a hydrogen pressure of 10 MPa at 150° C. for 5 hours. After completion of the reaction, the catalyst was removed by filtration to obtain a crude product (29.7 g).

reactant | 2-Hexyl-2-methyl-1,3-dioxolane | 0.17 mol, 30 g | C(CCCCC)C1(OCCO1)C | C10H20O2
reactant | phosphoric acid | 110 mg | P(O)(O)(O)=O | H3O4P
catalyst | palladium | 2.2 g | [Pd] | Pd
product | 2-(1-Methylheptyloxy)ethanol | 29.7 g | CC(CCCCCC)OCCO | C10H22O2
